US07205292B2
tert-Butyl [(3R,7R)-2-oxo-3-({[4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidin-1-yl]carbonyl}amino)-7-phenylazepan-1-yl]acetate
The title compound was prepared with tert-butyl [(3R,7R)-3-amino-2-oxo-7-phenylazepan-1-yl]acetate and 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carbonyl chloride using a similar procedure to Example 1. MS 576 (M+1).

reactant | tert-butyl [(3R,7R)-3-amino-2-oxo-7-phenylazepan-1-yl]acetate | N[C@H]1C(N([C@H](CCC1)C1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C18H26N2O3
reactant | 4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidine-1-carbonyl chloride | O=C1NC2=CC=CC=C2CN1C1CCN(CC1)C(=O)Cl | C14H16ClN3O2
product | tert-Butyl [(3R,7R)-2-oxo-3-({[4-(2-oxo-1,4-dihydroquinazolin-3(2H)-yl)piperidin-1-yl]carbonyl}amino)-7-phenylazepan-1-yl]acetate | O=C1N([C@H](CCC[C@H]1NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)C1=CC=CC=C1)CC(=O)OC(C)(C)C | C32H41N5O5
